US06194410B1
A solution of 2.9 g (11.5 mmol) of 4-benzenesulphonyl-5-ethyl-2H-pyrazol-3-ylamine and 1.8 ml (13.8 mmol) of ethyl acetoacetate in 10 ml of acetic acid was heated at reflux for 3 hrs. The reaction solution was cooled to RT and evaporated. The residue was partitioned between CH2Cl2 and H2O and the aqueous phase was washed three times with 150 ml of CH2Cl2. The combined organic phases were dried (MgSO4), filtered and evaporated. Crystallization from ethyl acetate yielded 2.6 g (71%) of 3-benzenesulphonyl-2-ethyl-5-methyl-pyrazolo[1,5-a]pyrimidin-7-ol as colorless crystals.

reactant | 4-benzenesulphonyl-5-ethyl-2H-pyrazol-3-ylamine | 11.5 mmol, 2.9 g | C1(=CC=CC=C1)S(=O)(=O)C1=C(NN=C1CC)N | C11H13N3O2S
reactant | ethyl acetoacetate | 13.8 mmol, 1.8 ml | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-benzenesulphonyl-2-ethyl-5-methyl-pyrazolo[1,5-a]pyrimidin-7-ol | 2.6 g, 71% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2O)C)CC | C15H15N3O3S
